### PR TITLE
[Merged by Bors] - refactor(LinearAlgebra/QuadraticForm/Basic) : Generalise `QuadraticForm` to `QuadraticMap`

### PR DESCRIPTION
**Pull request by mans0954**
Most of the theory in `LinearAlgebra/QuadraticForm/Basic` also holds for Quadratic Maps with minimal modification. A quadratic form is just a special case of a quadratic map.

To keep this PR to a reasonable size I have not attempted to generalise other files in `LinearAlgebra/QuadraticForm` - this can be done in subsequent PRs.

To facilitate dot notation we also introduce `LinearMap.BilinMap` as an abbreviation for `M →ₗ[R] M →ₗ[R] N`. No attempt has been made to generalise all `BilinForm` results to `BilinMap` at this stage.

Some results in `LinearAlgebra/QuadraticForm/Basic` are still stated for quadratic forms either because there was no obvious generalisation to quadratic maps, or the generalisation requires improvements elsewhere in Mathlib which can be considered in subsequent PRs.

My motivation for introducing Quadratic Maps to Mathlib is that it would allow the definition of interesting non-associative structures such as quadratic Jordan Algebras and Jordan Pairs.

---

- [x] depends on: #7581

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 1]
```diff
@@ -127,28 +129,32 @@ end Polar
...
-structure QuadraticForm (R : Type u) (M : Type v) [Semiring R] [AddCommMonoid M] [Module R M] where
-  toFun : M → R
-  toFun_smul : ∀ (a : R) (x : M), toFun (a • x) = a * a * toFun x
-  exists_companion' : ∃ B : BilinForm R M, ∀ x y, toFun (x + y) = toFun x + toFun y + B x y
+structure QuadraticForm (R : Type u) (M : Type v) (N : Type w) [Semiring R] [AddCommMonoid M]
+    [Module R M] [Module Rᵐᵒᵖ M] [AddCommMonoid N] [Module R N] [Module Rᵐᵒᵖ N]
+    [SMulCommClass Rᵐᵒᵖ R N] where
+  toFun : M → N
+  toFun_smul : ∀ (a : R) (x : M), toFun (a • x) = (a * a) • toFun x
+  toFun_smulr : ∀ (a : Rᵐᵒᵖ) (x : M), toFun (a • x) = (a * a) • toFun x
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:137]: This feels a bit like this is trying to be a quadratic map over a bimodule, which IMO is a little awkward given that we don't even have linear maps over a bimodule!

Do you actually need to support a non-commutative `R` here? I don't know if even the current definition makes any sense when R is not commutative.

Comment (mans0954) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:137]: > This feels a bit like this is trying to be a quadratic map over a bimodule, which IMO is a little awkward given that we don't even have linear maps over a bimodule!

Yes, I got the idea for how to do this from https://github.com/leanprover-community/mathlib4/blob/master/Mathlib/Algebra/Module/Bimodule.lean

> Do you actually need to support a non-commutative `R` here? I don't know if even the current definition makes any sense when R is not commutative.

Personally I'd be quite happy with `R` commutative. The current `QuadraticForm` definition uses `R` non-commutative. So the possibilities are:

1. Develop `QuadraticMap` and `QuadraticForm` as separate (but very similar) theories, with the former over a commutative ring and the latter over a non-commutative ring
2. Have `QuadraticForm` as a special case of `QuadraticMap`, but both over a commutative ring
3. Figure out how to make `QuadraticForm` work over a non-commutative ring

I guess there is also the option of starting off with `QuadraticForm` work over a non-commutative ring and then specialising to commutative when we need to?

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:137]: I'm starting to like the idea of 2. Maybe that looks like:
* make a PR that ungeneralizes QuadraticForm to commutative rings and see if CI/Zulip cares
* generalize `QuadraticForm` to `QuadraticMap`.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:137]: It might be worth asking on Zulip and looking at the git history before embarking on that first point

**Comment by eric-wieser** [comment]
Having though some more, I think the non-commutative case should be $Q(ax) = aQ(x)a^*$, but I don't think we should worry about that until someone asks for it

**Comment by mans0954** [comment]
> Having thought some more, I think the non-commutative case should be Q(ax)=aQ(x)a∗ (making x↦xx∗ a quadratic form), but I don't think we should worry about that until someone asks for it

I had that thought too - A σ-sesquilinear form https://en.wikipedia.org/wiki/Sesquilinear_form#Definition

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean (hunk 1 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:137]: Looks like the use of non-commutative rings goes back to the PR that originally introduced quadratic forms:

https://github.com/leanprover-community/mathlib/pull/2480

Comment (mans0954) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:137]: I've asked here: https://leanprover.zulipchat.com/#narrow/stream/116395-maths/topic/Quadratic.20Maps

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 2]
```diff
@@ -315,172 +320,187 @@ theorem polar_sub_right (x y y' : M) : polar Q x (y - y') = polar Q x y - polar
...
+  toFun (a : M) := ⟨{
+    toFun := polar Q a
+    map_add' := polar_add_right Q a
+  }, by simp⟩
+  map_add' _ _ := by
+    ext
+    simp
+  map_smul' _ _ := by
+    ext
+    simp
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:340]: I think we're going to want separate definitions (`polarBilin` and `polarBilinForm`) in the short term.

Note that you can use `LinearMap.mk\2` here to golf this.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 3]
```diff
@@ -587,341 +601,359 @@ def linMulLin (f g : M →ₗ[R] R) : QuadraticForm R M where
...
+  fun Q₁ Q₂ h₁₂ => QuadraticMap.ext fun x => by
+  have e1 : 2 • Q₁ x = 2 • Q₂ x := by
+    simpa using DFunLike.congr_fun (congr_arg toQuadraticMap h₁₂) x
+  calc
+    Q₁ x = (⅟(2 : R) * 2) • Q₁ x := by rw [invOf_mul_self', one_smul]
+    _ = ⅟(2 : R) • ((2 : R) • Q₁ x) := by rw [mul_smul]
+    _ = ⅟(2 : R) • (2 • Q₁ x) := by rw [two_smul, ← two_smul ℕ]
+    _ = ⅟(2 : R) • (2 • Q₂ x) := by rw [e1]
+    _ = ⅟(2 : R) • ((2 : R) • Q₂ x) := by rw [two_smul ℕ, two_smul]
+    _ = Q₂ x := by rw [← mul_smul, invOf_mul_self', one_smul]
```
Comment (trivial1711) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:798]: Here is my attempt at making this simpler:

```suggestion
theorem _root_.QuadraticMap.polarBilin_injective (h : IsUnit (2 : R)) :
    Function.Injective (polarBilin : QuadraticMap R M N → _) := by
  intro Q₁ Q₂ h₁₂
  apply h.smul_left_cancel.mp
  rw [show (2 : R) = (2 : ℕ) by rfl]
  simp_rw [← nsmul_eq_smul_cast R, ← QuadraticMap.toQuadraticMap_polarBilin]
  exact congrArg toQuadraticMap h₁₂
```

I prefer `IsUnit` to `Invertible` here. `Invertible` would be acceptable if it was a typeclass argument.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 4]
```diff
@@ -587,341 +601,359 @@ def linMulLin (f g : M →ₗ[R] R) : QuadraticForm R M where
...
   associatedHom ℤ
-#align quadratic_form.associated' QuadraticForm.associated'
+#align quadratic_form.associated' QuadraticMap.associated'
 
 /-- Symmetric bilinear forms can be lifted to quadratic forms -/
 instance canLift :
-    CanLift (BilinForm R M) (QuadraticForm R M) (associatedHom ℕ) LinearMap.IsSymm where
-  prf B hB := ⟨B.toQuadraticForm, associated_left_inverse _ hB⟩
-#align quadratic_form.can_lift QuadraticForm.canLift
+    CanLift (BilinMap R M R) (QuadraticMap R M R) (associatedHom ℕ) LinearMap.IsSymm where
```
Comment (trivial1711) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:922]:
```suggestion
    CanLift (BilinMap R M R) (QuadraticForm R M) (associatedHom ℕ) LinearMap.IsSymm where
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 5]
```diff
@@ -587,341 +601,359 @@ def linMulLin (f g : M →ₗ[R] R) : QuadraticForm R M where
...
+  prf B hB := ⟨B.toQuadraticMap, associated_left_inverse _ hB⟩
+#align quadratic_form.can_lift QuadraticMap.canLift
 
 /-- There exists a non-null vector with respect to any quadratic form `Q` whose associated
 bilinear form is non-zero, i.e. there exists `x` such that `Q x ≠ 0`. -/
-theorem exists_quadraticForm_ne_zero {Q : QuadraticForm R M}
+theorem exists_QuadraticMap_ne_zero {Q : QuadraticMap R M R}
```
Comment (trivial1711) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:928]:
```suggestion
theorem exists_quadraticForm_ne_zero {Q : QuadraticForm R M}
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 6]
```diff
@@ -587,341 +601,359 @@ def linMulLin (f g : M →ₗ[R] R) : QuadraticForm R M where
...
     -- Porting note: added implicit argument
     (hB₁ : associated' (R := R) Q ≠ 0) :
     ∃ x, Q x ≠ 0 := by
   rw [← not_forall]
   intro h
   apply hB₁
-  rw [(QuadraticForm.ext h : Q = 0), LinearMap.map_zero]
-#align quadratic_form.exists_quadratic_form_ne_zero QuadraticForm.exists_quadraticForm_ne_zero
+  rw [(QuadraticMap.ext h : Q = 0), LinearMap.map_zero]
+#align quadratic_form.exists_quadratic_form_ne_zero QuadraticMap.exists_QuadraticMap_ne_zero
```
Comment (trivial1711) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:936]:
```suggestion
#align quadratic_form.exists_quadratic_form_ne_zero QuadraticMap.exists_quadraticForm_ne_zero
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 7]
```diff
@@ -1045,51 +1078,51 @@ end Anisotropic
...
-#align quadratic_form.pos_def.add QuadraticForm.PosDef.add
+#align quadratic_form.pos_def.add QuadraticMap.PosDef.add
 
 theorem linMulLinSelfPosDef {R} [LinearOrderedCommRing R] [Module R M] (f : M →ₗ[R] R)
     (hf : LinearMap.ker f = ⊥) : PosDef (linMulLin f f) := fun _x hx =>
   mul_self_pos.2 fun h => hx <| LinearMap.ker_eq_bot'.mp hf _ h
-#align quadratic_form.lin_mul_lin_self_pos_def QuadraticForm.linMulLinSelfPosDef
+#align quadratic_form.lin_mul_lin_self_pos_def QuadraticMap.linMulLinSelfPosDef
 
 end PosDef
```
Comment (trivial1711) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:1123]: - This section should be in the namespace `QuadraticForm` instead of `QuadraticMap`.
- Every occurrence of `QuadraticMap` in this section should be replaced with `QuadraticForm`.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 8]
```diff
@@ -1105,34 +1138,36 @@ The determinant of the matrix is the discriminant of the quadratic form.
 variable {n : Type w} [Fintype n] [DecidableEq n]
 variable [CommRing R] [AddCommMonoid M] [Module R M]
```
Comment (trivial1711) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:1140]:
```suggestion
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 9]
```diff
@@ -1141,52 +1176,54 @@ variable {m : Type w} [DecidableEq m] [Fintype m]
...
 
 theorem discr_comp (f : (n → R) →ₗ[R] n → R) :
     (Q.comp f).discr = f.toMatrix'.det * f.toMatrix'.det * Q.discr := by
-  simp only [Matrix.det_transpose, mul_left_comm, QuadraticForm.toMatrix'_comp, mul_comm,
+  simp only [Matrix.det_transpose, mul_left_comm, QuadraticMap.toMatrix'_comp, mul_comm,
     Matrix.det_mul, discr]
-#align quadratic_form.discr_comp QuadraticForm.discr_comp
+#align quadratic_form.discr_comp QuadraticMap.discr_comp
 
 end Discriminant
```
Comment (trivial1711) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:1205]: Once again:
- This section should be in the namespace QuadraticForm instead of QuadraticMap.
- Every occurrence of QuadraticMap in this section should be replaced with QuadraticForm.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 10]
```diff
@@ -1141,52 +1176,54 @@ variable {m : Type w} [DecidableEq m] [Fintype m]
...
 
-end QuadraticForm
+end QuadraticMap
 
-namespace QuadraticForm
+namespace QuadraticMap
 
-end QuadraticForm
+end QuadraticMap
```
Comment (trivial1711) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:1211]:
```suggestion
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 11]
```diff
@@ -1141,52 +1176,54 @@ variable {m : Type w} [DecidableEq m] [Fintype m]
...
+
 section Semiring
 
 variable [CommSemiring R] [AddCommMonoid M] [Module R M]
 
 /--
 A bilinear form is separating left if the quadratic form it is associated with is anisotropic.
 -/
-theorem separatingLeft_of_anisotropic {B : BilinForm R M} (hB : B.toQuadraticForm.Anisotropic) :
+theorem separatingLeft_of_anisotropic {B : BilinMap R M R} (hB : B.toQuadraticMap.Anisotropic) :
```
Comment (trivial1711) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:1226]:
```suggestion
theorem separatingLeft_of_anisotropic {B : BilinForm R M} (hB : B.toQuadraticMap.Anisotropic) :
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 12]
```diff
@@ -1105,34 +1138,36 @@ The determinant of the matrix is the discriminant of the quadratic form.
 variable {n : Type w} [Fintype n] [DecidableEq n]
 variable [CommRing R] [AddCommMonoid M] [Module R M]
 
-/-- `M.toQuadraticForm'` is the map `fun x ↦ col x * M * row x` as a quadratic form. -/
-def Matrix.toQuadraticForm' (M : Matrix n n R) : QuadraticForm R (n → R) :=
-  LinearMap.BilinForm.toQuadraticForm (Matrix.toLinearMap₂' M)
-#align matrix.to_quadratic_form' Matrix.toQuadraticForm'
+variable (M : Matrix n n R)
```
Comment (trivial1711) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:1141]: The variable name you use here is unfortunate. Change its name.

Every theorem and definition in this section still applies to a matrix whose entries lie in an `R`-module.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 13]
```diff
@@ -1197,10 +1234,10 @@ variable [CommRing R] [AddCommGroup M] [Module R M]
 /-- There exists a non-null vector with respect to any symmetric, nonzero bilinear form `B`
 on a module `M` over a ring `R` with invertible `2`, i.e. there exists some
 `x : M` such that `B x x ≠ 0`. -/
-theorem exists_bilinForm_self_ne_zero [htwo : Invertible (2 : R)] {B : BilinForm R M}
+theorem exists_bilinForm_self_ne_zero [htwo : Invertible (2 : R)] {B : BilinMap R M R}
```
Comment (trivial1711) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:1237]:
```suggestion
theorem exists_bilinForm_self_ne_zero [htwo : Invertible (2 : R)] {B : BilinForm R M}
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 14]
```diff
@@ -1197,10 +1234,10 @@ variable [CommRing R] [AddCommGroup M] [Module R M]
...
     (hB₁ : B ≠ 0) (hB₂ : B.IsSymm) : ∃ x, ¬B.IsOrtho x x := by
-  lift B to QuadraticForm R M using hB₂ with Q
-  obtain ⟨x, hx⟩ := QuadraticForm.exists_quadraticForm_ne_zero hB₁
+  lift B to QuadraticMap R M R using hB₂ with Q
```
Comment (trivial1711) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:1239]:
```suggestion
  lift B to QuadraticForm R M using hB₂ with Q
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 15]
```diff
@@ -1291,37 +1328,37 @@ variable (R)
 
 The weights are applied using `•`; typically this definition is used either with `S = R` or
 `[Algebra S R]`, although this is stated more generally. -/
-def weightedSumSquares [Monoid S] [DistribMulAction S R] [SMulCommClass S R R] (w : ι → S) :
-    QuadraticForm R (ι → R) :=
-  ∑ i : ι, w i • proj i i
-#align quadratic_form.weighted_sum_squares QuadraticForm.weightedSumSquares
+def weightedSumSquares [Monoid S] [DistribMulAction S R] [SMulCommClass S R R] [SMulCommClass R S R]
+    (w : ι → S) : QuadraticMap R (ι → R) R :=
+  ∑ i : ι, w i • (proj (R:=R) (n:=ι) i i)
```
Comment (trivial1711) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:1333]:
```suggestion
  ∑ i : ι, w i • (proj (R := R) (n := ι) i i)
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 16]
```diff
@@ -1291,37 +1328,37 @@ variable (R)
...
-    ring
+      smul_eq_mul, smul_eq_mul]
+    ring_nf
   · intro i _ hij
     rw [LinearMap.map_smul, LinearMap.map_smul₂,
       show associatedHom R Q (v i) (v j) = 0 from hv₂ hij, smul_eq_mul, smul_eq_mul,
       mul_zero, mul_zero]
 set_option linter.uppercaseLean3 false in
-#align quadratic_form.basis_repr_eq_of_is_Ortho QuadraticForm.basisRepr_eq_of_iIsOrtho
+#align quadratic_form.basis_repr_eq_of_is_Ortho QuadraticMap.basisRepr_eq_of_iIsOrtho
```
Comment (trivial1711) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:1363]: One final time:
- This section should be in the namespace QuadraticForm instead of QuadraticMap.
- Every occurrence of QuadraticMap in this section should be replaced with QuadraticForm.

**Review by trivial1711 — COMMENTED** [review]
Thanks for the contribution. I have read through everything once; I might do it again tomorrow.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean (hunk 2 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean]: I've changed it to use `LinearMap.mk₂`. The def is now
```
def polarBilin : BilinMap R M N
```
where
```
variable (R M Nₗ) in
/-- A shorthand for the type of `R`-bilinear `N`-valued maps on `M`. -/
protected abbrev BilinMap : Type _ := M →ₗ[R] M →ₗ[R] Nₗ

variable (R M) in
/-- For convenience, a shorthand for the type of bilinear forms from `M` to `R`.

This should eventually replace `_root_.BilinForm`. -/
protected abbrev BilinForm : Type _ := LinearMap.BilinMap R M R
```
@eric-wieser following #11278 do we still need a separate `polarBilinForm`?

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean]: I think probably not.

File: Mathlib/LinearAlgebra/BilinearMap.lean [hunk 17]
```diff
@@ -402,9 +402,15 @@ variable {R M}
...
+variable (R M Nₗ) in
+/-- A shorthand for the type of `R`-bilinear `N`-valued maps on `M`. -/
+protected abbrev BilinMap : Type _ := M →ₗ[R] M →ₗ[R] Nₗ
+
 variable (R M) in
-/-- For convenience, a shorthand for the type of bilinear forms from `M` to `R`. -/
-protected abbrev BilinForm : Type _ := M →ₗ[R] M →ₗ[R] R
+/-- For convenience, a shorthand for the type of bilinear forms from `M` to `R`.
+
+This should eventually replace `_root_.BilinForm`. -/
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/BilinearMap.lean:412]:
```suggestion
/-- For convenience, a shorthand for the type of bilinear forms from `M` to `R`. -/
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 18]
```diff
@@ -81,270 +81,283 @@ variable {R : Type*} {M N : Type*}
...
+#align quadratic_form.map_add_add_add_map QuadraticMap.map_add_add_add_map
 
-theorem map_add_self (x : M) : Q (x + x) = 4 * Q x := by
+theorem map_add_self (x : M) : Q (x + x) = 4 • Q x := by
   rw [← one_smul R x, ← add_smul, map_smul]
-  norm_num
-#align quadratic_form.map_add_self QuadraticForm.map_add_self
+  rw [← three_add_one_eq_four, ← two_add_one_eq_three, ← one_add_one_eq_two]
+  rw [add_mul, mul_add, one_mul, ← add_assoc, one_smul R x]
+  rw [add_smul, add_smul, add_smul, add_smul, add_smul, add_smul, one_smul, one_smul]
```
[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean]: Thanks - that's much better.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean (hunk 7 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean]: I've adapted the `PosDef` section so that the results now work for Quadratic Maps.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 19]
```diff
@@ -500,397 +512,411 @@ end SemiringOperators
...
       simp_rw [h, f.map_add, LinearMap.compr₂_apply, LinearMap.restrictScalars₁₂_apply_apply]⟩
-#align linear_map.comp_quadratic_form LinearMap.compQuadraticForm
+#align linear_map.comp_quadratic_form LinearMap.compQuadraticMap
 
 end Comp
 
 section CommRing
 
-variable [CommSemiring R] [AddCommMonoid M] [Module R M]
+variable [CommSemiring R] [CommSemiring N] [AddCommMonoid M] [Module R M]
```
Comment (mans0954) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:590]: It's possible to have `[NonUnitalNonAssocCommSemiring N]` here - but then `linMulLinSelfPosDef` breaks.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 20]
```diff
@@ -500,75 +513,76 @@ end SemiringOperators
...
     (fun _ _ => coeFn_smul _ _) fun _ _ => coeFn_smul _ _
 
 end RingOperators
 
 section Comp
 
-variable [CommSemiring R] [AddCommMonoid M] [Module R M]
-variable [AddCommMonoid N] [Module R N]
+variable [CommSemiring R] [AddCommMonoid M] [Module R M] [AddCommMonoid N] [Module R N]
+variable {N' : Type v} [AddCommMonoid N'] [Module R N']
```
[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean]: Okay, done.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 21]
```diff
@@ -500,75 +513,76 @@ end SemiringOperators
...
+    [IsScalarTower S R N] [IsScalarTower S R M] [Module S N']
+    (f : N →ₗ[S] N') (Q : QuadraticMap R M N) : QuadraticMap S M N' where
   toFun x := f (Q x)
   toFun_smul b x := by simp only [Q.map_smul_of_tower b x, f.map_smul, smul_eq_mul]
   exists_companion' :=
     let ⟨B, h⟩ := Q.exists_companion
     ⟨(B.restrictScalars₁₂ S S).compr₂ f, fun x y => by
       simp_rw [h, f.map_add, LinearMap.compr₂_apply, LinearMap.restrictScalars₁₂_apply_apply]⟩
-#align linear_map.comp_quadratic_form LinearMap.compQuadraticForm
+#align linear_map.comp_quadratic_form LinearMap.compQuadraticMap
```
[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean]: I've converted `compQuadraticMap` into a composition.

File: Mathlib/LinearAlgebra/BilinearForm/TensorProduct.lean [hunk 22]
```diff
@@ -63,29 +64,29 @@ theorem tensorDistrib_tmul (B₁ : BilinForm A M₁) (B₂ : BilinForm R M₂) (
     tensorDistrib R A (B₁ ⊗ₜ B₂) (m₁ ⊗ₜ m₂) (m₁' ⊗ₜ m₂')
       = B₂ m₂ m₂' • B₁ m₁ m₁' :=
   rfl
-#align bilin_form.tensor_distrib_tmul LinearMap.BilinForm.tensorDistrib_tmulₓ
+#align bilin_form.tensor_distrib_tmul LinearMap.BilinMap.tensorDistrib_tmulₓ
 
 /-- The tensor product of two bilinear forms, a shorthand for dot notation. -/
 @[reducible]
-protected def tmul (B₁ : BilinForm A M₁) (B₂ : BilinForm R M₂) : BilinForm A (M₁ ⊗[R] M₂) :=
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/BilinearForm/TensorProduct.lean:70]: Should these be left as `BilinForm` now?

File: Mathlib/LinearAlgebra/CliffordAlgebra/Prod.lean [hunk 23]
```diff
@@ -135,7 +135,8 @@ def toProd : evenOdd Q₁ ᵍ⊗[R] evenOdd Q₂ →ₐ[R] CliffordAlgebra (Q₁
   GradedTensorProduct.lift _ _
     (CliffordAlgebra.map <| .inl _ _)
     (CliffordAlgebra.map <| .inr _ _)
-    fun _i₁ _i₂ x₁ x₂ => map_mul_map_of_isOrtho_of_mem_evenOdd _ _ (.inl_inr) _ _ x₁.prop x₂.prop
+    fun _i₁ _i₂ x₁ x₂ => map_mul_map_of_isOrtho_of_mem_evenOdd _ _ (QuadraticForm.IsOrtho.inl_inr) _
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/CliffordAlgebra/Prod.lean:138]: This breakage of dot notation is unfortunate

File: Mathlib/LinearAlgebra/QuadraticForm/Complex.lean [hunk 24]
```diff
@@ -34,7 +36,7 @@ noncomputable def isometryEquivSumSquares (w' : ι → ℂ) :
   have hw' : ∀ i : ι, (w i : ℂ) ^ (-(1 / 2 : ℂ)) ≠ 0 := by
     intro i hi
     exact (w i).ne_zero ((Complex.cpow_eq_zero_iff _ _).1 hi).1
-  convert (weightedSumSquares ℂ w').isometryEquivBasisRepr
+  convert QuadraticForm.isometryEquivBasisRepr (weightedSumSquares ℂ w')
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/QuadraticForm/Complex.lean:39]: This dot notation failure is also sad

File: Mathlib/LinearAlgebra/QuadraticForm/Prod.lean [hunk 25]
```diff
@@ -141,10 +143,10 @@ theorem anisotropic_of_prod {R} [OrderedCommRing R] [Module R M₁] [Module R M
   constructor
   · intro x hx
     refine' (h x 0 _).1
-    rw [hx, zero_add, map_zero]
+    rw [hx, zero_add, _root_.map_zero]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/QuadraticForm/Prod.lean:146]: Probably `map_zero` should be `protected` to avoid this issue. (in a pre-work CL)

File: Mathlib/LinearAlgebra/QuadraticForm/Prod.lean [hunk 26]
```diff
@@ -188,7 +190,8 @@ theorem IsOrtho.prod {Q₁ : QuadraticForm R M₁} {Q₂ : QuadraticForm R M₂}
 
 @[simp] theorem IsOrtho.inl_inr {Q₁ : QuadraticForm R M₁} {Q₂ : QuadraticForm R M₂}
     (m₁ : M₁) (m₂ : M₂) :
-    (Q₁.prod Q₂).IsOrtho (m₁, 0) (0, m₂) := .prod (.zero_right _) (.zero_left _)
+    (Q₁.prod Q₂).IsOrtho (m₁, 0) (0, m₂) :=
+      QuadraticForm.IsOrtho.prod (.zero_right _) (.zero_left _)
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/QuadraticForm/Prod.lean:194]: More dot notation loss

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 27]
```diff
@@ -353,142 +365,142 @@ def ofPolar (toFun : M → R) (toFun_smul : ∀ (a : R) (x : M), toFun (a • x)
...
   smul_add a Q Q' := by
     ext
     simp only [add_apply, smul_apply, smul_add]
   smul_zero a := by
     ext
     simp only [zero_apply, smul_apply, smul_zero]
 
-instance [Semiring S] [Module S R] [SMulCommClass S R R] :
-    Module S (QuadraticForm R M) where
+instance [Semiring S] [Module S N] [SMulCommClass S R N] [SMulCommClass R S N] :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:502]: You shouldn't need both `SmulCommClass`es here, as one can be built from the other.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 28]
```diff
@@ -500,397 +512,437 @@ end SemiringOperators
...
   exists_companion' :=
     let ⟨B, h⟩ := Q.exists_companion
-    ⟨(B.restrictScalars₁₂ S S).compr₂ f, fun x y => by
-      simp_rw [h, f.map_add, LinearMap.compr₂_apply, LinearMap.restrictScalars₁₂_apply_apply]⟩
-#align linear_map.comp_quadratic_form LinearMap.compQuadraticForm
+    ⟨B.compr₂ f, fun x y => by simp only [h, map_add, LinearMap.compr₂_apply]⟩
+
+/-- Compose a quadratic map with a linear function on the left. -/
+@[simps! (config := { simpRhs := true })]
+def _root_.LinearMap.compQuadraticMap [CommSemiring S] [Algebra S R] [Module S N] [Module S M]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:605]: This definition now feels a little weird; I'll have another look later.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 29]
```diff
@@ -500,397 +512,437 @@ end SemiringOperators
...
 
 section CommRing
 
-variable [CommSemiring R] [AddCommMonoid M] [Module R M]
+variable [CommSemiring R]  [NonUnitalNonAssocCommSemiring N]  [AddCommMonoid M] [Module R M]
+variable [Module R N] [SMulCommClass R N N] [IsScalarTower R N N]
 
 /-- The product of linear forms is a quadratic form. -/
-def linMulLin (f g : M →ₗ[R] R) : QuadraticForm R M where
+def linMulLin (f g : M →ₗ[R] N) : QuadraticMap R M N where
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:619]: I think `N` should probably be called `A` or something here, to indicate it is more than a module.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 30]
```diff
@@ -1030,66 +1084,78 @@ section Ring
...
-    (hf : LinearMap.ker f = ⊥) : PosDef (linMulLin f f) := fun _x hx =>
-  mul_self_pos.2 fun h => hx <| LinearMap.ker_eq_bot'.mp hf _ h
-#align quadratic_form.lin_mul_lin_self_pos_def QuadraticForm.linMulLinSelfPosDef
+#align quadratic_form.pos_def.add QuadraticMap.PosDef.add
+
+-- This should be in `Algebra/Ring/Defs` but that causes issues with `Tactic/Ring/Basic`
+-- see Note [lower instance priority]
+instance (priority := 100) _root_.CommSemiring.toNonUnitalNonAssocCommSemiring {N' : Type*}
+    [CommSemiring N'] : NonUnitalNonAssocCommSemiring N' :=
+  { inferInstanceAs (CommMonoid N'), inferInstanceAs (CommSemiring N') with }
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:1146]: Can you split this to its own PR (in the right place), then ask for help with `ring` on zulip?

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 31]
```diff
@@ -1290,37 +1358,37 @@ variable (R)
 
 The weights are applied using `•`; typically this definition is used either with `S = R` or
 `[Algebra S R]`, although this is stated more generally. -/
-def weightedSumSquares [Monoid S] [DistribMulAction S R] [SMulCommClass S R R] (w : ι → S) :
-    QuadraticForm R (ι → R) :=
-  ∑ i : ι, w i • proj i i
-#align quadratic_form.weighted_sum_squares QuadraticForm.weightedSumSquares
+def weightedSumSquares [Monoid S] [DistribMulAction S R] [SMulCommClass S R R] [SMulCommClass R S R]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:1361]: This extra `SMulCommClass` is a bit suspicious

**Review by eric-wieser — COMMENTED** [review]
Some initial comments; this generally looks great, but there a few places where the `abbrev`s seem to be causing dot notation trouble. I'll try to check things out in VSCode to see what's going on, in a few days.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean (hunk 27 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:502]: The following MWE:
```
import Mathlib.Algebra.Module.Defs

variable {S T : Type*}
variable {R : Type*} {M N : Type*}
variable [Semiring S] [CommSemiring R] [AddCommMonoid N] [Module S N] [Module R N] [SMulCommClass S R N]

instance : SMulCommClass R S N := by infer_instance
```
The `infer_instance` fails with `failed to synthesize instance SMulCommClass R S N`.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean (hunk 30 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:1146]: Done #12617 and https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Adding.20an.20instance.20breaks.20.60Mathlib.2ETactic.2ERing.2EBasic.60

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean (hunk 29 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean]: Done, thanks.

File: Mathlib/LinearAlgebra/BilinearForm/TensorProduct.lean (hunk 22 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/BilinearForm/TensorProduct.lean:70]: I think I started moving some things into the `BilinMap` namespace to avoid breaking dot notation, but this then leaves a bit of a mishmash of `BilinForm`s and `BilinMap`s. And even with these changes I still ended up breaking dot notation elsewhere. Possibly we need to sort out `BilinForm` / `BilinMap` / (along with the Sesquilinear equivalents) before this PR?

File: Mathlib/LinearAlgebra/QuadraticForm/Prod.lean (hunk 25 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/QuadraticForm/Prod.lean:146]: #14633

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean (hunk 27 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean]: Indeed, but you can build it manually; see 3e887927a25ac161c3ecb10b8f306e3324a4e872

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean (hunk 28 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:605]: Let's swap these around, and call this one `compQuadraticMap'`, leaving `compQuadraticMap` for the simpler one above.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean (hunk 27 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean]: Looks like you've fixed this for me now? Thanks.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean (hunk 31 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean]: Looks like you've fixed this for me: https://github.com/leanprover-community/mathlib4/pull/7569/commits/3c60a70c7d69cf01cd7d2d6494335d4bc5a93e68 - thanks.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean (hunk 28 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:605]: @eric-wieser do you mean `compQuadraticMapAux` should be renamed to `compQuadraticMap` and `compQuadraticMap` renamed to `compQuadraticMap'`?

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:605]: Yes

Comment (mans0954) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean]: Done.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean (hunk 19 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean]: This is being dealt with in #12617 - for now we will stick with the `CommSemiring` case.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean (hunk 30 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean]: We're restricting `linMulLin` to the `CommSemiring` case for now.

**Comment by eric-wieser** [comment]
!bench

**Comment by eric-wieser** [comment]
!bench

File: Mathlib/LinearAlgebra/BilinearMap.lean [hunk 32]
```diff
@@ -413,6 +410,14 @@ variable {M}
 theorem lsmul_apply (r : R) (m : M) : lsmul R M r m = r • m := rfl
 #align linear_map.lsmul_apply LinearMap.lsmul_apply
 
+variable (R M Nₗ) in
+/-- A shorthand for the type of `R`-bilinear `N`-valued maps on `M`. -/
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/BilinearMap.lean:414]:
```suggestion
/-- A shorthand for the type of `R`-bilinear `Nₗ`-valued maps on `M`. -/
```
Or should `Nₗ` in the `variable` line (and later) be just `N`?

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 33]
```diff
@@ -6,46 +6,47 @@ Authors: Anne Baanen, Kexing Ying, Eric Wieser
...
 
 #align_import linear_algebra.quadratic_form.basic from "leanprover-community/mathlib"@"d11f435d4e34a6cea0a1797d6b625b0c170be845"
 
 /-!
-# Quadratic forms
+# Quadratic maps
 
-This file defines quadratic forms over a `R`-module `M`.
-A quadratic form on a commutative ring `R` is a map `Q : M → R` such that:
+This file defines quadratic maps over a `R`-module `M`.
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:16]:
```suggestion
This file defines quadratic maps over an `R`-module `M`.
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 34]
```diff
@@ -6,46 +6,47 @@ Authors: Anne Baanen, Kexing Ying, Eric Wieser
...
+A quadratic map on a commutative ring `R` is a map `Q : M → N` such that:
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:17]:
```suggestion
A quadratic map over a commutative ring `R` is a map `Q : M → N` such that:
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 35]
```diff
@@ -6,46 +6,47 @@ Authors: Anne Baanen, Kexing Ying, Eric Wieser
...
 
-* `QuadraticForm.map_smul`: `Q (a • x) = a * a * Q x`
-* `QuadraticForm.polar_add_left`, `QuadraticForm.polar_add_right`,
-  `QuadraticForm.polar_smul_left`, `QuadraticForm.polar_smul_right`:
-  the map `QuadraticForm.polar Q := fun x y ↦ Q (x + y) - Q x - Q y` is bilinear.
+* `QuadraticMap.map_smul`: `Q (a • x) = a * a * Q x`
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:19]: Should this be `a • a • Q x`  (or `(a * a) • Q x`) on the right?

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 36]
```diff
@@ -6,46 +6,47 @@ Authors: Anne Baanen, Kexing Ying, Eric Wieser
...
-requires that there be a (possibly non-unique) companion bilinear form `B` such that
-`∀ x y, Q (x + y) = Q x + Q y + B x y`. Over a ring, this `B` is precisely `QuadraticForm.polar Q`.
+requires that there be a (possibly non-unique) companion bilinear map `B` such that
+`∀ x y, Q (x + y) = Q x + Q y + B x y`. Over a ring, this `B` is precisely `QuadraticMap.polar Q`.
 
-To build a `QuadraticForm` from the `polar` axioms, use `QuadraticForm.ofPolar`.
+To build a `QuadraticMap` from the `polar` axioms, use `QuadraticMap.ofPolar`.
 
-Quadratic forms come with a scalar multiplication, `(a • Q) x = Q (a • x) = a * a * Q x`,
+Quadratic maps come with a scalar multiplication, `(a • Q) x = Q (a • x) = a * a * Q x`,
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:30]: I don't think the first equality is what is wanted here (this would not be a useful scalar multiplication, as it is not linear in `a`).

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 37]
```diff
@@ -70,279 +71,291 @@ has some further discusion.
...
-#align quadratic_form.polar_comp QuadraticForm.polar_comp
+#align quadratic_form.polar_comp QuadraticMap.polar_comp
 
-end QuadraticForm
+end QuadraticMap
 
 end Polar
 
-/-- A quadratic form over a module.
+/-- A quadratic map over a module.
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:138]:
```suggestion
/-- A quadratic map on a module.
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 38]
```diff
@@ -70,279 +71,291 @@ has some further discusion.
...
-  exists_companion' :
-    ∃ B : BilinForm R M, ∀ x y, toFun (x + y) = toFun x + toFun y + B x y
-#align quadratic_form QuadraticForm
+section QuadraticForm
 
-namespace QuadraticForm
+variable (R : Type u) (M : Type v) [CommSemiring R] [AddCommMonoid M] [Module R M]
+
+variable (R M) in
+/-- A quadratic form over a module. -/
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:153]:
```suggestion
/-- A quadratic form on a module. -/
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 39]
```diff
@@ -351,142 +364,143 @@ def ofPolar (toFun : M → R) (toFun_smul : ∀ (a : R) (x : M), toFun (a • x)
...
 
 section SMul
 
-variable [Monoid S] [Monoid T] [DistribMulAction S R] [DistribMulAction T R]
-variable [SMulCommClass S R R] [SMulCommClass T R R]
+variable [Monoid S] [Monoid T] [DistribMulAction S N] [DistribMulAction T N]
+variable [SMulCommClass S R N] [SMulCommClass T R N]
 
-/-- `QuadraticForm R M` inherits the scalar action from any algebra over `R`.
+/-- `QuadraticMap R M` inherits the scalar action from any algebra over `R`.
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:387]:
```suggestion
/-- `QuadraticMap R M N` inherits the scalar action from any algebra over `R`.
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 40]
```diff
@@ -351,142 +364,143 @@ def ofPolar (toFun : M → R) (toFun_smul : ∀ (a : R) (x : M), toFun (a • x)
...
-def coeFnAddMonoidHom : QuadraticForm R M →+ M → R where
+def coeFnAddMonoidHom : QuadraticMap R M N →+ M → N where
   toFun := DFunLike.coe
   map_zero' := coeFn_zero
   map_add' := coeFn_add
-#align quadratic_form.coe_fn_add_monoid_hom QuadraticForm.coeFnAddMonoidHom
+#align quadratic_form.coe_fn_add_monoid_hom QuadraticMap.coeFnAddMonoidHom
 
-/-- Evaluation on a particular element of the module `M` is an additive map over quadratic forms. -/
+/-- Evaluation on a particular element of the module `M` is an additive map over quadratic maps. -/
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:469]:
```suggestion
/-- Evaluation on a particular element of the module `M` is an additive map on quadratic maps. -/
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 41]
```diff
@@ -498,397 +512,435 @@ end SemiringOperators
...
 
-theorem associated_left_inverse (h : B₁.IsSymm) : associatedHom S B₁.toQuadraticForm = B₁ :=
-  LinearMap.ext₂ fun x y => by
-    rw [associated_toQuadraticForm, ← h.eq, RingHom.id_apply, ← two_mul, ← mul_assoc,
-      invOf_mul_self, one_mul]
-#align quadratic_form.associated_left_inverse QuadraticForm.associated_left_inverse
+theorem associated_left_inverse (h : B₁.IsSymm) : associatedHom S B₁.toQuadraticMap = B₁ :=
+    LinearMap.ext₂ fun x y => by
+  rw [associated_toQuadraticMap, ← h.eq x y, RingHom.id_apply, ← two_mul, ← smul_mul_assoc,
+    smul_eq_mul, invOf_mul_self, one_mul]
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:911]:
```suggestion
  LinearMap.ext₂ fun x y => by
    rw [associated_toQuadraticMap, ← h.eq x y, RingHom.id_apply, ← two_mul, ← smul_mul_assoc,
      smul_eq_mul, invOf_mul_self, one_mul]
```
Note that this is the proof term, not part of the statement, so indent by 2 instead of 4.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 42]
```diff
@@ -1103,34 +1161,34 @@ The determinant of the matrix is the discriminant of the quadratic form.
 variable {n : Type w} [Fintype n] [DecidableEq n]
 variable [CommRing R] [AddCommMonoid M] [Module R M]
 
-/-- `M.toQuadraticForm'` is the map `fun x ↦ col x * M * row x` as a quadratic form. -/
-def Matrix.toQuadraticForm' (M : Matrix n n R) : QuadraticForm R (n → R) :=
-  LinearMap.BilinForm.toQuadraticForm (Matrix.toLinearMap₂' M)
-#align matrix.to_quadratic_form' Matrix.toQuadraticForm'
+/-- `M.toQuadraticMap'` is the map `fun x ↦ col x * M * row x` as a quadratic form. -/
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:1164]:
```suggestion
/-- `M.toQuadraticMap'` is the map `fun x ↦ row x * M * col x` as a quadratic form. -/
```
otherwise the products don't make sense.

**Comment by MichaelStollBayreuth** [comment]
<b>General information:</b>
```text
lint:                                                  +23.963 * 10⁹ (+0.299%)
build:                                                 +114.28 * 10⁹ (+0.0933%)
```

<details><summary><b>15 files got slower by at least 10⁹ instructions</b></summary>

```text
Mathlib.LinearAlgebra.QuadraticForm.Basic:             +42.057 * 10⁹ (+30.1%)
Mathlib.LinearAlgebra.ExteriorAlgebra.Grading:         +10.988 * 10⁹ (+19.6%)
Mathlib.LinearAlgebra.QuadraticForm.TensorProduct:     +9.0410 * 10⁹ (+8.80%)
Mathlib.LinearAlgebra.ExteriorAlgebra.OfAlternating:   +7.3102 * 10⁹ (+18.8%)
Mathlib.LinearAlgebra.CliffordAlgebra.Equivs:          +6.7790 * 10⁹ (+10.2%)
Mathlib.LinearAlgebra.CliffordAlgebra.Contraction:     +6.4159 * 10⁹ (+5.59%)
Mathlib.LinearAlgebra.QuadraticForm.TensorProduct.Isometries:
                                                       +4.8889 * 10⁹ (+5.80%)
Mathlib.LinearAlgebra.CliffordAlgebra.EvenEquiv:       +4.6507 * 10⁹ (+3.63%)
Mathlib.LinearAlgebra.QuadraticForm.Prod:              +4.3047 * 10⁹ (+10.5%)
Mathlib.CategoryTheory.Category.Cat.Limit:             +2.0291 * 10⁹ (+2.13%)
Mathlib.LinearAlgebra.QuadraticForm.IsometryEquiv:     +1.8858 * 10⁹ (+11.8%)
Mathlib.LinearAlgebra.Matrix.PosDef:                   +1.5872 * 10⁹ (+3.38%)
Mathlib.LinearAlgebra.CliffordAlgebra.Inversion:       +1.4714 * 10⁹ (+6.60%)
Mathlib.LinearAlgebra.ExteriorAlgebra.Basic:           +1.2953 * 10⁹ (+2.01%)
Mathlib.LinearAlgebra.CliffordAlgebra.Prod:            +1.0083 * 10⁹ (+1.90%)
```

</details>


<b>6 files got slower by at least 10%:</b>
```text
Mathlib.LinearAlgebra.QuadraticForm.Basic:                            +30.1%
Mathlib.LinearAlgebra.ExteriorAlgebra.Grading:                        +19.6%
Mathlib.LinearAlgebra.ExteriorAlgebra.OfAlternating:                  +18.8%
Mathlib.LinearAlgebra.QuadraticForm.IsometryEquiv:                    +11.8%
Mathlib.LinearAlgebra.QuadraticForm.Prod:                             +10.5%
Mathlib.LinearAlgebra.CliffordAlgebra.Equivs:                         +10.2%
```


<b>No file got faster by at least 10⁹ instructions.</b>


<b>No file got faster by at least 10%.</b>

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean (hunk 36 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:30]:
```suggestion
Quadratic maps come with a scalar multiplication, `(a • Q) x = a • Q x`,
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean (hunk 35 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:19]:
```suggestion
* `QuadraticMap.map_smul`: `Q (a • x) = (a * a) • Q x`
```

**Comment by eric-wieser** [comment]
bors d+

Thanks again for your patience here!

Please look over @MichaelStollBayreuth's suggestions above, and reword the docstrings where appropriate.

The performance doesn't look great (especially impacting files that I spend time on!), but I think this is likely just an unavoidable cost of generality, and so we don't need to worry about it for now.

File: Mathlib/LinearAlgebra/BilinearMap.lean (hunk 32 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/BilinearMap.lean:414]: Let's use `Nₗ` for now rather than messing with the variables. I think `N` is used for semilinear maps in this file.
